US06017919
10% Palladium-carbon catalyst (water content 50%, 50 mg) was added to a solution of 4-benzyloxybenzylamine (530 mg, 2.485 mmol, 1.0 eq) in THF (10 ml), and the mixture was stirred for 3 hours at room temperature in a stream of hydrogen. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (n-hexane/ethyl acetate=1/1) to give 4-hydroxybenzylamine (260 mg, 85.0%).

reactant | 4-benzyloxybenzylamine | 2.485 mmol, 530 mg, 1.0 eq | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 50 mg | [C].[Pd]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-hydroxybenzylamine | 260 mg, 85.0% | OC1=CC=C(CN)C=C1 | C7H9NO
